US04061761
4-[4-Chloro-3-(2-picolylsulfamoyl)-phenyl]-3-methyl-2-methylimino-1,3-thiazolidine-4-ol
8.8 g of 4-(4-chloro-3-chlorosulfonylphenyl)-3-methyl-2-methylimino-1,3-thiazolidine-4-ol-hydrobromide were reacted with 3.0 g of 2-picolyl amine and 5 g of triethyl amine as prescribed in Example 76 and the end product precipitating as crystals was filtered off. Melting point: 166° C (decomposition).

reactant | 4-(4-chloro-3-chlorosulfonylphenyl)-3-methyl-2-methylimino-1,3-thiazolidine-4-ol-hydrobromide | 8.8 g | Br.ClC1=C(C=C(C=C1)C1(N(C(SC1)=NC)C)O)S(=O)(=O)Cl
reactant | 2-picolyl amine | 3.0 g | N1=C(C=CC=C1)CN | C6H8N2
solvent | triethyl amine | 5 g | C(C)N(CC)CC | C6H15N
product | 4-[4-Chloro-3-(2-picolylsulfamoyl)-phenyl]-3-methyl-2-methylimino-1,3-thiazolidine-4-ol | ClC1=C(C=C(C=C1)C1(N(C(SC1)=NC)C)O)S(NCC1=NC=CC=C1)(=O)=O | C17H19ClN4O3S2
